US07713982B2
d) 8-chloro-3-ethyl-1-methyl-3,7-dihydro-1H-purine-2,6-dione
To a solution of 8-chloro-1-methyl-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione (100 mg, 0.42 mmol) in anhydrous DMF (3 ml) was added sodium carbonate (58 mg, 0.54 mmol), after 10 minutes stirring ethyl iodide (0.043 ml, 0.54 mmol) was added and the reaction mixture stirred at room temperature under nitrogen for 90 hours. Pd(PPh3)4 (73 mg, 0.063 mmol) was then added and the reaction vessel evacuated and flushed with nitrogen (x3), morpholine (0.37 ml, 4.3 mmol) was added and stirring at room temperature under nitrogen continued for 4 hours. The reaction mixtue was diluted with EtOAc (25 ml) and washed with 2M HCl aq. (25 ml). The organic extract was dried (MgSO4) filtered and evaporated. Purification by aminopropyl SPE (5 g) loading the compound and washing with MeOH before eluting the product with 5% AcOH/MeOH afforded the title compound as a white solid (67 mg, 70%). NMR; dH (400 MHz, d6-DMSO) 1.20 (t, 3H, J=7 Hz), 3.22 (s, 3H), 3.97(q, 2H, J=7 Hz), 14.46 (1H, br s); m/z 227.2[M−H]−.

reactant | 8-chloro-1-methyl-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione | 0.42 mmol, 100 mg | ClC1=NC=2NC(N(C(C2N1CC=C)=O)C)=O | C9H9ClN4O2
reactant | sodium carbonate | 0.54 mmol, 58 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl iodide | 0.54 mmol, 0.043 ml | C(C)I | C2H5I
reactant | morpholine | 4.3 mmol, 0.37 ml | N1CCOCC1 | C4H9NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 25 ml | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 0.063 mmol, 73 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-chloro-3-ethyl-1-methyl-3,7-dihydro-1H-purine-2,6-dione | 67 mg, 70% | ClC1=NC=2N(C(N(C(C2N1)=O)C)=O)CC | C8H9ClN4O2
